US06010981
E) 4-Iodo-3-methyl-2-(2-methylphenyl)(methylthio)benzene (3-iodo-2,2'-dimethyl-6-methylthiobiphenyl)
A solution of 2.0 g (8.2 mmol) of 85 percent purity 2-methyl-3-(2-methylphenyl)-4-methylthioaniline in 3 mL of dichloromethane was combined with 60 mL of concentrated aqueous hydrochloric acid and the mixture was stirred for 1 hour. It was then cooled to 5° C. A solution of 850 mg (12 mmol) of sodium nitrite in 10 mL of water was added in portions with stirring and cooling. After 45 min, this mixture was poured with stirring into a mixture of a solution of 2.0 g (12 mmol) of potassium iodide in 100 mL of water and 75 mL of dichloromethane and the combination was stirred for 30 min. Five mL of saturated sodium sulfite solution was then added with stirring and after 20 min reaction time, the phases were separated. The organic phase was washed with water and with saturated aqueous sodium chloride solution, dried over sodium sulfate, and concentrated under reduced pressure. The 2.4 g (83 percent of theory) of oily residue obtained was the title compound in impure form.

reactant | 2-methyl-3-(2-methylphenyl)-4-methylthioaniline | CC1=C(N)C=CC(=C1C1=C(C=CC=C1)C)SC | C15H17NS
reactant | hydrochloric acid | 60 mL | Cl | ClH
reactant | sodium nitrite | 12 mmol, 850 mg | N(=O)[O-].[Na+]
reactant | potassium iodide | 12 mmol, 2.0 g | [I-].[K+]
reactant | sodium sulfite | Five mL | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 4-Iodo-3-methyl-2-(2-methylphenyl)(methylthio)benzene | IC1=C(C(=C(C=C1)SC)C1=C(C=CC=C1)C)C | C15H15IS
